US06967254B2
4-(4-Chloro-phenyl)-5-pyridin-4-yl-1,2-dihydro-pyrazol-3-one
To solution of 4-(4-Chloro-phenyl)-5-pyridin-4-yl-pyrazolidin-3-one 20 mg in ethyl alcohol 5 mL was added Pd/C 1 mg. The reaction was heated to 50° C. for 48 hours, cooled to room temperature, filtered and concentrated to a solid. Purification by TLC plate followed by crystallization from chloroform and methanol give the title compound as an off-white solid. MS (ES+): 272 (M+H)+.

reactant | 4-(4-Chloro-phenyl)-5-pyridin-4-yl-pyrazolidin-3-one | 20 mg | ClC1=CC=C(C=C1)C1C(NNC1C1=CC=NC=C1)=O | C14H12ClN3O
solvent | ethyl alcohol | 5 mL | C(C)O | C2H6O
catalyst | Pd/C | 1 mg | [Pd] | Pd
product | 4-(4-Chloro-phenyl)-5-pyridin-4-yl-1,2-dihydro-pyrazol-3-one | ClC1=CC=C(C=C1)C=1C(NNC1C1=CC=NC=C1)=O | C14H10ClN3O
